US08685969B2
1. Benzyl 1H-indol-6-ylcarbamate
A mixture of 1H-indol-6-amine (1.0 g, 7.57 mmol), benzyl carbonochloridate (1.421 mL, 9.46 mmol), and potassium carbonate (1.307 g, 9.46 mmol) in tetrahydrofuran (50 mL) was stirred at room temperature for 16 hr. The mixture was diluted with ethyl acetate (150 mL) and insoluble material was removed by filtration. The filtrate was washed sequentially with saturated NaHCO3 solution (50 mL) and brine (50 mL). The organic solution was dried over anhydrous MgSO4. The desired product (1.05 g, 3.94 mmol, 52.1% yield) was isolated as a white solid by ISCO (120 g silica gel, solid loading, 5-30% ethyl acetate/hexane).

reactant | 1H-indol-6-amine | 7.57 mmol, 1.0 g | N1C=CC2=CC=C(C=C12)N | C8H8N2
reactant | benzyl carbonochloridate | 9.46 mmol, 1.421 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | potassium carbonate | 9.46 mmol, 1.307 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | Benzyl 1H-indol-6-ylcarbamate | 3.94 mmol, 1.05 g, 52.1% yield | N1C=CC2=CC=C(C=C12)NC(OCC1=CC=CC=C1)=O | C16H14N2O2
